US06506901B2
Step A: [1-(4-Nitro-benzenesulfonyl)-piperidin-4-yl]-methanol
Prepared in identical fashion to the 4-carboxamide analog by reacting 4-nitrobenzenesulfonyl chloride with 4-hydroxymethylpiperidine in THF containing 1 equivalent of diisopropyethylamine overnight at ambient temperature.

reactant | 4-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 4-hydroxymethylpiperidine | OCC1CCNCC1 | C6H13NO
reactant | THF | 1 equivalent | C1CCOC1 | C4H8O
reactant | diisopropyethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | [1-(4-Nitro-benzenesulfonyl)-piperidin-4-yl]-methanol | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CO | C12H16N2O5S
